US06124313
a) 8-[2-(2-Chloroethoxycarbonylamino)-6-methylbenzyloxy]-3-formyl-2-methylimidazo[1,2-a]pyridine
According to the procedure indicated in Example 1a, 8-(2-amino-6-methylbenzyloxy)-3-formyl-2-methylimidazo[1,2-a]pyridine (2.36 g) and 2-chloroethyl chloroformate (1.3 g) in dichloromethane (150 ml) give the title compound as a brown oil which is used directly for further reaction in 3b.

reactant | 8-(2-amino-6-methylbenzyloxy)-3-formyl-2-methylimidazo[1,2-a]pyridine | 2.36 g | NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C17H17N3O2
reactant | 2-chloroethyl chloroformate | 1.3 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 8-[2-(2-Chloroethoxycarbonylamino)-6-methylbenzyloxy]-3-formyl-2-methylimidazo[1,2-a]pyridine | ClCCOC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C20H20ClN3O4
